US07491826B2
3-(5-Amino-3-fluoro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester. Four cylinders charged with (S)-3-(3-fluoro-5-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (50 g), 10% Pd(OH)2/C (5.0 g) and MeOH (300 mL) were subjected to hydrogenation under 50 psi H2. The mixture was stirred vigorously overnight. The mixture was filtered through a pad of diatomaceous earth and rinsed with methanol. The alcoholic solutions were combined and concentrated to give the aniline (S)-3-(5-amino-3-fluoro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester as syrup in quantitative yield.

reactant | 3-(5-Amino-3-fluoro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)OC1=CC(=CC(=C1)N)F | C16H23FN2O3
reactant | (S)-3-(3-fluoro-5-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 50 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=CC(=CC(=C1)[N+](=O)[O-])F | C16H21FN2O5
catalyst | Pd(OH)2/C | 5.0 g | [OH-].[OH-].[Pd+2]
solvent | MeOH | 300 mL | CO | CH4O
product | aniline (S)-3-(5-amino-3-fluoro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=CC(=CC(=C1)N)F.NC1=CC=CC=C1 | InChI=1S/C16H23FN2O3.C6H7N/c1-16(2,3)22-15(20)19-6-4-5-13(10-19)21-14-8-11(17)7-12(18)9-14;7-6-4-2-1-3-5-6/h7-9,13H,4-6,10,18H2,1-3H3;1-5H,7H2/t13-;/m0./s1
